US09145441B2
Compound 104a. (R)-3-((R)-2-Hydroxymethyl-2-methyl-but-3-enoyl)-4-isopropyl-oxazolidin-2-one
To a stirred solution of (R)-4-isopropyl-3-[(R)-2-methyl-2-(2-trimethylsilanyl-ethoxymethyl)-but-3-enoyl]-oxazolidin-2-one (2.93 g, 8.58 mmol) in a mixture of acetonitrile (86 mL) and water (1.72 mL) was added lithium tetrafluoroborate (1 M in acetonitrile, 42.9 mL, 42.9 mmol). The mixture was heated at reflux under nitrogen for 5 h and allowed to cool to ambient temperature. More lithium tetrafluoroborate (1 M in acetonitrile, 8.6 mL, 8.6 mmol) was added and the mixture heated at reflux for a further 75 minutes and allowed to cool to ambient temperature. The mixture was diluted with water/diethyl ether (2:3, 100 mL) and the organic layer was separated and washed with water. The combined aqueous washes were back-extracted with diethyl ether and the combined organic extracts dried over anhydrous sodium sulfate, filtered and evaporated to give the title compound (1.89 g, 91%) as a yellow oil. 1H NMR (300 MHz, CDCl3) δ 0.89 (d, J=6.9 Hz, 3H), 0.95 (d, J=6.9 Hz, 3H), 1.35 (s, 3H), 2.36-2.47 (m, 1H), 2.56-2.70 (br s, 1H), 3.47-3.54 (m, 1H), 3.91 (d, J=11.6 Hz, 1H), 4.22-4.31 (m, 2H), 4.47-4.53 (m, 1H), 4.97 (d, J=17.8 Hz, 1H), 5.17 (d, J=10.7 Hz, 1H), 6.09 (dd, J=17.8, 10.7 Hz, 1H). LCMS (m/z) 242.2 [M+H], Tr=1.82 min.

reactant | (R)-4-isopropyl-3-[(R)-2-methyl-2-(2-trimethylsilanyl-ethoxymethyl)-but-3-enoyl]-oxazolidin-2-one | 8.58 mmol, 2.93 g | C(C)(C)[C@H]1N(C(OC1)=O)C([C@](C=C)(COCC[Si](C)(C)C)C)=O | C17H31NO4Si
reactant | lithium tetrafluoroborate | 42.9 mmol, 1 M, 42.9 mL | F[B-](F)(F)F.[Li+]
reactant | lithium tetrafluoroborate | 8.6 mmol, 1 M, 8.6 mL | F[B-](F)(F)F.[Li+]
solvent | acetonitrile | 86 mL | C(C)#N | C2H3N
solvent | water | 1.72 mL | O | H2O
solvent | water diethyl ether | 100 mL | O.C(C)OCC
product | (R)-3-((R)-2-Hydroxymethyl-2-methyl-but-3-enoyl)-4-isopropyl-oxazolidin-2-one | 1.89 g, 91% | OC[C@](C(=O)N1C(OC[C@H]1C(C)C)=O)(C=C)C | C12H19NO4
